datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7]([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([H:13])[C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]1([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])([H:10])([H:11])[H:12],40.7522
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([S:12][H:22])[c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:19])([H:20])[H:21])([S:12][H:22])[c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27],46.5261
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([C:12]([H:21])([H:22])[H:23])[c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]=[C:9]([H:19])[H:20])([C:12]([H:21])([H:22])[H:23])[c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])[H:4],56.735
[C:0]([S:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[H:18]>>[C:0]([S:1][H:18])([H:6])([H:7])[H:8].[C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17],12.1336
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([S:7][H:17])[c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])([H:14])([H:15])[H:16]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:14])([H:15])[H:16])([S:7][H:17])[c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22],98.324
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:14]([C:13]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24],52.3669
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17](=[C:18][C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:18](=[C:17]([H:20])[H:21])[C:19]([H:22])([H:23])[H:24])([H:9])[H:10],21.171
[C:0](=[C:1][C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])([H:7])[H:8]>>[C:0](=[C:1][C:2]1=[C:3]([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]1([H:9])[H:13])([H:7])[H:8],63.97336
[C:0](=[C:1]=[C:2]([H:4])[H:5])[H:3].[H:6][H:7]>>[C:0](=[C:1]=[C:2]([H:4])[H:5])([H:3])[H:7].[H:6],74.4752
[N:0](=[O:1])[H:2].[N:3]=[C:4]=[O:5]>>[H:2][N:3]=[C:4]=[O:5].[N:0]=[O:1],0.0
[C:0]1=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]([H:15])([H:16])[C:9]1([H:17])[H:18]>>[C:0]1([H:17])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]([H:15])([H:16])[C:9]1[H:18],167.221928
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[O:22]>>[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])[H:14])([H:8])[H:9].[H:13][O:22],0.054392
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([C:13]([H:24])([H:25])[H:26])[c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:11]([C:10](=[C:9]([H:20])[H:21])[H:22])[H:23])([C:13]([H:24])([H:25])[H:26])[c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:4],41.3379
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])[H:7])[H:6],27.3215
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14]>>[C:0]([C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][O:13][O:14],157.15104
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[H:8]>>[C:0](#[C:1][C:2]([H:5])([H:6])[H:7])[H:4].[H:3][H:8],0.0
[C:0]([C:1](=[C:2]([H:8])[H:9])[O:3][O:4][C:5]([H:10])([H:11])[H:12])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1](=[C:2]([H:8])[H:9])[O:3]1.[O:4][C:5]([H:10])([H:11])[H:12],92.048
